US04186135
1045 cm3 of chlorosulfonic acid were introduced into a balloon flask provided with an agitator, a thermometer and a condenser and then, in portions, 110 g of 8-methoxy-1,4-benzodioxane-5-carboxylic acid were added with the temperature being maintained at from 5°-10° C. The mixture was agitated at ambient temperature and then poured on ice. The precipitate was dried off, washed and dried. 159 g of 8-methoxy-7-chlorosulfonyl-1,4-benzodioxane-5-carboxylic acid were obtained (yield: 98%).

reactant | 8-methoxy-1,4-benzodioxane-5-carboxylic acid | 110 g | COC1=CC=C(C2=C1OCCO2)C(=O)O | C10H10O5
reactant | chlorosulfonic acid | 1045 cm3 | ClS(=O)(=O)O | ClHO3S
product | 8-methoxy-7-chlorosulfonyl-1,4-benzodioxane-5-carboxylic acid | 159 g, yield: 98% | COC1=C(C=C(C2=C1OCCO2)C(=O)O)S(=O)(=O)Cl | C10H9ClO7S
